US08754226B2
To a solution of (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one hydrochloride (prepared according to the method of Example 45) (0.100 g, 0.246 mmol) in 5 mL MeOH was added KOH (0.014 g, 0.246 mmol). The mixture was stirred for 30 minutes at ambient temperature, cooled in an ice bath and filtered through a syringe filter, and the filtrate was concentrated and used directly. To the obtained residue was added 2-chloro-5-ethyl-3-methylpyridine (0.0460 g, 0.296 mmol), toluene (5 mL), Pd(OAc)2 (0.00830 g, 0.0370 mmol), 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (also known as “DavePhos”) (0.0291 g, 0.0739 mmol), and NaOtBu (0.0710 g, 0.739 mmol) and the mixture was heated at 110° C. overnight. The reaction was cooled to ambient temperature, diluted with water and extracted with CH2Cl2. The organic layers were combined, dried over Na2SO4 and purified on silica gel eluting with 100% EtOAc to give 1′-(5-ethyl-3-methylpyridin-2-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one (0.080 g, 66.5% yield) as a white solid. Mass spectrum (apci) m/z=489.3 (M+H).

reactant | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one hydrochloride | Cl.FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CCC1)C1CCNCC1)=O
reactant | KOH | 0.246 mmol, 0.014 g | [OH-].[K+]
reactant | 2-chloro-5-ethyl-3-methylpyridine | 0.296 mmol, 0.0460 g | ClC1=NC=C(C=C1C)CC | C8H10ClN
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
reactant | DavePhos | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | NaOtBu | 0.739 mmol, 0.0710 g | CC(C)(C)[O-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.0370 mmol, 0.00830 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1′-(5-ethyl-3-methylpyridin-2-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1,4′-bipiperidin-2-one | 0.080 g, 66.5% yield | C(C)C=1C=C(C(=NC1)N1CCC(CC1)N1C(C(CCC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O)C | C25H33FN4O3S
